US09371318B2
Step 2: (R)-Quinuclidin-3-yl ((S)-(3-(2-((4-(hydroxymethyl)phenyl)amino)-2-oxoethoxy)phenyl)(phenyl)methyl)carbamate
The title compound was prepared as described in Example 1 Step 10 with 2-(3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)acetic acid replacing 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl) phenoxy)methyl)benzoic acid and 4-aminobenzyl alcohol replacing 4-(2-hydroxyethoxy)-3-methylbenzaldehyde.

reactant | 2-(3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)acetic acid | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC(=O)O)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C23H26N2O5
reactant | 4-aminobenzyl alcohol | NC1=CC=C(CO)C=C1 | C7H9NO
product | (R)-Quinuclidin-3-yl ((S)-(3-(2-((4-(hydroxymethyl)phenyl)amino)-2-oxoethoxy)phenyl)(phenyl)methyl)carbamate | OCC1=CC=C(C=C1)NC(COC=1C=C(C=CC1)[C@H](C1=CC=CC=C1)NC(O[C@H]1CN2CCC1CC2)=O)=O | C30H33N3O5
